US07851072B2
Step 1: 2-(biphenyl-3-yl)-4-methylpyridine
9.0 g (0.05 mol) of 2-bromo-4-methylpyridine, 12.0 g (0.06 mol) of 3-biphenylboronic acid, 1.7 g (0.0015 mol) of Pd(Ph3)4, 19.0 g (0.135 mol) of K2CO3, 50 mL of DME and 50 mL of water. The reaction mixture was refluxed for 20 hours and separated on silica gel column. MS confirmed the desired product.

reactant | 2-bromo-4-methylpyridine | 0.05 mol, 9.0 g | BrC1=NC=CC(=C1)C | C6H6BrN
reactant | 3-biphenylboronic acid | 0.06 mol, 12.0 g | C1(=CC(=CC=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | K2CO3 | 0.135 mol, 19.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DME | 50 mL | COCCOC | C4H10O2
solvent | water | 50 mL | O | H2O
product | 2-(biphenyl-3-yl)-4-methylpyridine | C1(=CC(=CC=C1)C1=NC=CC(=C1)C)C1=CC=CC=C1 | C18H15N
